US08729061B2
(2S,3S)-3-Amino-N-butyl-2-hydroxyhexanamide dihydrochloride
The title compound was prepared in analogy to (2S,3S)-3-amino-N-cyclopropyl-2-hydroxypentanamide dihydrochloride, Representative Procedure A, using (S)-2-aminopentan-1-ol in the first step (A1), and 1-isocyanobutane in the third step (A3).

reactant | (2S,3S)-3-amino-N-cyclopropyl-2-hydroxypentanamide dihydrochloride | Cl.Cl.N[C@H]([C@@H](C(=O)NC1CC1)O)CC
reactant | (S)-2-aminopentan-1-ol | N[C@H](CO)CCC | C5H13NO
reactant | 1-isocyanobutane | [N+](#[C-])CCCC | C5H9N
product | (2S,3S)-3-Amino-N-butyl-2-hydroxyhexanamide dihydrochloride | Cl.Cl.N[C@H]([C@@H](C(=O)NCCCC)O)CCC | InChI=1S/C10H22N2O2.2ClH/c1-3-5-7-12-10(14)9(13)8(11)6-4-2;;/h8-9,13H,3-7,11H2,1-2H3,(H,12,14);2*1H/t8-,9-;;/m0../s1
